US08377923B2
Sodium hydride (55% mineral oil, 30 mg) was added to a mixture of 5-{5-[1-(4-chloro-2,6-difluorophenoxy)-1-methylethyl]-4-isopropyl-4H-1,2,4-triazol-3-yl}isoindolin-1-one (200 mg) and DMF (5 ml) under ice cooling, followed by stirring for one hour, iodomethane (0.084 ml) was added thereto, followed by stirring for one hour, while slowly elevating to room temperature. The reaction solution was concentrated, water was added to the residue, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate and the solvent was then evaporated. The resulting residue was purified by silica gel column chromatography (chloroform:methanol=100:0 to 90:10) and then was solidified from ethyl acetate-diisopropylether, and the solid was collected by filtration, washed with diisopropylether and then dried under reduced pressure to obtain 5-{5-[1-(4-chloro-2,6-difluorophenoxy)-1-methylethyl]-4-isopropyl-4H-1,2,4-triazol-3-yl}-2-methylisoindolin-1-one (111 mg) as a light yellow solid.

reactant | Sodium hydride | 30 mg | [H-].[Na+]
reactant | 5-{5-[1-(4-chloro-2,6-difluorophenoxy)-1-methylethyl]-4-isopropyl-4H-1,2,4-triazol-3-yl}isoindolin-1-one | 200 mg | ClC1=CC(=C(OC(C)(C)C=2N(C(=NN2)C=2C=C3CNC(C3=CC2)=O)C(C)C)C(=C1)F)F | C22H21ClF2N4O2
reactant | iodomethane | 0.084 ml | IC | CH3I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-{5-[1-(4-chloro-2,6-difluorophenoxy)-1-methylethyl]-4-isopropyl-4H-1,2,4-triazol-3-yl}-2-methylisoindolin-1-one | 111 mg | ClC1=CC(=C(OC(C)(C)C=2N(C(=NN2)C=2C=C3CN(C(C3=CC2)=O)C)C(C)C)C(=C1)F)F | C23H23ClF2N4O2
